* Simple generic model for a potentiometer
* Parameters are total resistance (r) and wiper (pos).
.subckt potentiometer 1 2 3 params: pos=.5 r=100k
.param w=limit(pos,1m,.999)
R1 1 2 {r*(1-w)}
R2 2 3 {r*w}
*.model RV1 potentiometer( r=r position=pos )
*A NC--1 NC--2 NC--3 RV1
.ends
